US08133901B2
(R)-Biphenyl-2-yl-[3-(5-bromo-pyrimidin-2-ylamino)-piperidin-1-yl]-methanone
prepared by reaction of biphenyl-2-carboxylic acid with (R)-(5-bromo-pyrimidin-2-yl)-piperidine-3-yl-amine.

reactant | biphenyl-2-carboxylic acid | C=1(C(=CC=CC1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | (R)-(5-bromo-pyrimidin-2-yl)-piperidine-3-yl-amine | BrC=1C=NC(=NC1)N[C@H]1CNCCC1 | C9H13BrN4
product | (R)-Biphenyl-2-yl-[3-(5-bromo-pyrimidin-2-ylamino)-piperidin-1-yl]-methanone | C1(=C(C=CC=C1)C(=O)N1C[C@@H](CCC1)NC1=NC=C(C=N1)Br)C1=CC=CC=C1 | C22H21BrN4O
